US04515814
1. 2-Cyclopentyloxyethanol
200 g (2.32 mols) of cyclopentanol, 38.5 cc (0.77 mol) of ethylene oxide and 2.3 g (0.1 g atom) of sodium metal are introduced at 0° C. into a 500 ml autoclave. The mixture is then heated for 4 hours at 75° C. The autoclave is left to cool and the reaction mixture is then distilled. This gives the title compound, which boils at 90°-92° C. under a pressure of 15 mm Hg.

reactant | cyclopentanol | 2.32 mols, 200 g | C1(CCCC1)O | C5H10O
reactant | ethylene oxide | 0.77 mol, 38.5 cc | C1CO1 | C2H4O
reactant | sodium | 2.3 g | [Na] | Na
product | 2-Cyclopentyloxyethanol | C1(CCCC1)OCCO | C7H14O2
